US04165334
(A) Preparation of 8-iodo-3,6-dioxaoctanol
One hundred grams (0.59 mole) of 2-[2-(2-chloroethoxy)ethoxy]-ethanol (Aldrich 16,297-3) was added to a solution of 450 g. (3 mol) of sodium iodide in 2.5 l acetone and stirred, in the dark, for 5 hours at reflux and then at room temperature for 16 hours. The precipitate was filtered and the acetone evaporated off at 30° C. The residue was dissolved in chloroform, extracted with saturated sodium chloride solution, and then with saturated sodium bisulfate solution. The chloroform extract was dried (MgSO4) and evaporated at room temperature to yield 137 g. (53%) of the title compound.

reactant | 2-[2-(2-chloroethoxy)ethoxy]-ethanol | 0.59 mole, One hundred grams | ClCCOCCOCCO | C6H13ClO3
reactant | sodium iodide | 3 mol | [I-].[Na+]
solvent | acetone | 2.5 l | CC(=O)C | C3H6O
product | 8-iodo-3,6-dioxaoctanol | 53% | ICCOCCOCCO | C6H13IO3
